US05495020
Employing ethyl 1-(2,4-difluorophenyl)-5-methyl-6,7,8-trifluoro-1,4-dihydro-4 -oxoquinoline-3-carboxylate (4.3 g) and conc. hydrochloric acid: 90% acetic acid (1:4) (80 ml), the procedure of Reference Example 23 is repeated to give 1-(2,4-difluorophenyl)-5-methyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (2.93 g), as white powder, m.p. 221°-222° C.

reactant | ethyl 1-(2,4-difluorophenyl)-5-methyl-6,7,8-trifluoro-1,4-dihydro-4 -oxoquinoline-3-carboxylate | 4.3 g | FC1=C(C=CC(=C1)F)N1C=C(C(C2=C(C(=C(C(=C12)F)F)F)C)=O)C(=O)OCC | C19H12F5NO3
reactant | hydrochloric acid | Cl | ClH
solvent | acetic acid | 80 ml | C(C)(=O)O | C2H4O2
product | 1-(2,4-difluorophenyl)-5-methyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 2.93 g | FC1=C(C=CC(=C1)F)N1C=C(C(C2=C(C(=C(C(=C12)F)F)F)C)=O)C(=O)O | C17H8F5NO3
